US06989402B1
3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoyl-5-hydroxy-1-naphthalenesulphonamide
To a stirred mixture of 5-hydroxy-1-naphthalenesulphonamide (0.175 mmol) in dichloromethane (0.2 ml) was added a solution of 3,5-dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoic acid (0.035 mmol), DIEA (0.175 mmol) and dichloromethane (0.2 ml), dimethyl formamide was added to the solution if the sulphonamide not dissolved completely in dichloromethane. After 15 minutes PyBOP (0.042 mmol) and HOBt (0.001 mmol) in dichloromethane (0.3 ml) was added. The reaction mixture was heated at 50° C. for 20 hours. After cooling to room temperature, dichloromethane (1 ml) and citric acid solution (5%, 1 ml) was added and stirred vigorously for 30 min. The organic phase was dried, concentrated and the residue was finally subjected to semi-preparative HPLC (Silica column: 250×20 mm, ethyl acetate/n-heptane (both with 0.5% acetic acid). Gradient: first 2 min 15% ethyl acetate, then over 13 min to 100% ethyl acetate, then additional 5 min 100% ethyl acetate) to give 12 mg (54%) of the title compound.

reactant | 5-hydroxy-1-naphthalenesulphonamide | 0.175 mmol | OC1=C2C=CC=C(C2=CC=C1)S(=O)(=O)N | C10H9NO3S
reactant | 3,5-dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoic acid | 0.035 mmol | BrC=1C=C(C(=O)O)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br | C16H14Br2O4
reactant | DIEA | 0.175 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 0.042 mmol | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | citric acid | 1 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 0.2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.3 ml | ClCCl | CH2Cl2
catalyst | HOBt | 0.001 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.2 ml | ClCCl | CH2Cl2
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoyl-5-hydroxy-1-naphthalenesulphonamide | 12 mg, 54% | BrC=1C=C(C(=O)C2=C(C3=CC=CC(=C3C=C2)O)S(=O)(=O)N)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br | C26H21Br2NO6S
